US07897792B2
Dimethylcarbamic acid 6-chloro-4-methoxymethyl-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester
Potassium carbonate (279 mg, 2.01 mmol) was added to a solution of dimethylcarbamic acid 6-chloro-4-bromomethyl-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester (compound 6b-1-3) (500 mg, 1.01 mmol) in THF (7.5 mL)/methanol (5.0 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate. The solvent was distilled away by concentration under reduced pressure, and the resultant residue was purified by column chromatography to yield the title compound (40 mg, 10%) as a white solid.

reactant | Potassium carbonate | 2.01 mmol, 279 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylcarbamic acid 6-chloro-4-bromomethyl-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 1.01 mmol, 500 mg | ClC=1C(=CC2=C(C(=C(C(O2)=O)CC2=CC(=CC=C2)[N+](=O)[O-])CBr)C1)OC(N(C)C)=O | C20H16BrClN2O6
reactant | methanol | 5.0 mL | CO | CH4O
reactant | water | O | H2O
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
product | Dimethylcarbamic acid 6-chloro-4-methoxymethyl-3-(3-nitrobenzyl)-2-oxo-2H-1-benzopyran-7-yl ester | 40 mg, 10% | ClC=1C(=CC2=C(C(=C(C(O2)=O)CC2=CC(=CC=C2)[N+](=O)[O-])COC)C1)OC(N(C)C)=O | C21H19ClN2O7
